US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-methylcarbamoyl-phenyl)-cyclopropyl]-amide (17)
A mixture of 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester (70.0 mg, 0.163 mmol) in a 2M solution of methylamine in methanol (3.0 mL, 6.0 mmol) is stirred at 90° C. in a sealed pressure tube. After 18 hours, the reaction vessel is cooled to room temperature, vented and opened. The reaction mixture is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with a gradient of 0-8% methanol in methylene chloride to afford the title compound as a solid.

reactant | 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid methyl ester | 0.163 mmol, 70.0 mg | COC(C1=CC(=CC=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)=O | C24H19FN4O3
reactant | methylamine | CN | CH5N
reactant | methanol | 6.0 mmol, 3.0 mL | CO | CH4O
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-methylcarbamoyl-phenyl)-cyclopropyl]-amide | CNC(=O)C=1C=C(C=CC1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C24H20FN5O2
